US07851618B2
A 500 mg quantity of roughly purified SGP (sialylglycopeptide) and 10 mg (319 μmols) of sodium azide were dissolved in 25 ml of tris-hydrochloric acid-calcium chloride buffer solution (0.05 mol/l of TRIZMA BASE, 0.01 mol/l of calcium chloride, pH=7.5). To the solution was added a solution of 50 mg of actinase E (protease, product of Kaken Seiyaku) in 5 ml of tris-hydrochloric acid-calcium chloride buffer solution, followed by standing at 37° C. The solution was freeze-dried 115 hours later. The residue was purified by gel filtration column chromatography twice, giving 252 mg of the desired asparagine-linked disialooligosaccharide.

reactant | SGP | C[C@H]([C@@H](C(=O)O)NC(=O)[C@H](CCCCN)NC(=O)[C@H](CC(=O)NC1C(C(C(C(O1)CO)OC2C(C(C(C(O2)CO)OC3C(C(C(C(O3)COC4C(C(C(C(O4)CO)O)O)OC5C(C(C(C(O5)CO)OC6C(C(C(C(O6)COC7(CC(C(C(O7)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)[O-])O)O)O)O)NC(=O)C)O)OC8C(C(C(C(O8)CO)O)O)OC9C(C(C(C(O9)CO)OC1C(C(C(C(O1)COC1(CC(C(C(O1)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)[O-])O)O)O)O)NC(=O)C)O)O)NC(=O)C)O)NC(=O)C)NC(=O)[C@H](C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](CCCCN)N)O.[Na+].[Na+]
reactant | sodium azide | 319 μmols, 10 mg | [N-]=[N+]=[N-].[Na+]
product | asparagine | 252 mg | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
